Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Hypertension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with the past medical
history of substance abuse (cocaine, alcohol), hypertension,
arrhythmia (exact diagnosis unknown) who presented with
hypertensive urgency. 

He was incarcerated on ___ and admitted to a detox unit. He
typically drinks a pint of liquor in the morning, and then 
drinks
and uses cocaine consistently throughout the day. His last drink
was on ___.

He underwent treatment for EtOH withdrawal with Librium ___.

The day of admission ___ ate a cheeseburger and ___ fries. 
Subsequently, he
was found vomiting in the bathroom. He had some respiratory
distress, and SpO2 was reportedly 78%. his blood pressure was
noted to be very high, so he was transferred to the
___. On arrival, his blood pressure was reported to be
204 systolic. He was given labetalol IV 10 mg, hydralazine, and
0.1 mg clonidine. CTA of chest and abdomen unrevealing, EKG
without ST segment changes, and troponin was negative. As far as
I can gather from the notes and his report, SpO2 apparently
corrected spontaneously. He was ultimately transferred here for 
a
medical bed. He currently denies headaches, changes in vision,
shortness of breath, chest pain. 

He normally takes Depakote twice daily, and clonidine once 
daily.
He does not have a PCP. He has taken Seroquel and gabapentin in
the past, but not currently.

He reports history of an arrhythmia, but doesn't know what kind.
He thinks his heart rate was too slow. He says he has taken 
blood
thinners for this in the past.

He agrees to HIV testing.

He endorses depressed thoughts. He has also had thoughts of
suicide, including overdosing on fentanyl. He denies ever having
overdosed on drugs before. He attempted to commit suicide
previously when he was younger, but no recent attempts. He is
interested in speaking with a mental health professional.

ROS: Only notable for constipation and numbness in both great
toes. Other pertinent positives and negatives as noted in the
HPI.  All other systems were reviewed and are negative. 

 
Past Medical History:
Substance abuse (cocaine, alcohol)
Hypertension
Arrhythmia (exact diagnosis unknown)
 
Social History:
___
Family History:
Alcoholism in mother
 
Physical ___:
ADMISSION EXAM
==============

VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted. Antecubital track marks
bilaterally
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM
==============
T 97.8, Bp 116/58, HR 51, RR 18, O2 97% RA 

GENERAL: no distress, resting in bed comfortably
EYES: PERRL, anicteric 
HEENT: Oropharynx without visible lesion, moist mucous membranes
CV: regular rhythm (bradycardic to low 50's), s1/2, no murmurs
RESP: CTA b/l no w/r/r
GI: soft, non tender, non distended, +bs in all quadrants 
Ext: no edema or cyanosis
Neuro: motor ___AOx3
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
===============

___ 10:49AM BLOOD WBC-5.5 RBC-4.51* Hgb-13.6* Hct-41.5 
MCV-92 MCH-30.2 MCHC-32.8 RDW-13.6 RDWSD-46.1 Plt ___
___ 10:49AM BLOOD Neuts-64.7 ___ Monos-6.5 Eos-0.0* 
Baso-0.7 Im ___ AbsNeut-3.56 AbsLymp-1.54 AbsMono-0.36 
AbsEos-0.00* AbsBaso-0.04
___ 10:49AM BLOOD Glucose-128* UreaN-18 Creat-1.2 Na-140 
K-4.2 Cl-99 HCO3-25 AnGap-16
___ 10:23PM BLOOD cTropnT-<0.01
___ 10:23PM BLOOD %HbA1c-5.5 eAG-111

PERTINENT LABS:
===============

___ 10:23PM BLOOD HBsAg-POS* HBsAb-NEG HBcAb-POS* HAV 
Ab-POS*
___ 09:10AM BLOOD ALT-12 AST-15 AlkPhos-57 TotBili-0.3
___ 06:00AM BLOOD ALT-11 AST-13 LD(LDH)-142 AlkPhos-61 
TotBili-0.2
___ 10:23PM BLOOD %HbA1c-5.5 eAG-111
___ 06:30AM BLOOD IgM HAV-NEG
___ 06:00AM BLOOD AFP-3.2
___ 10:23PM BLOOD HIV Ab-NEG
___ 10:49AM BLOOD ASA-NEG Acetmnp-NEG Tricycl-NEG
___ 10:23PM BLOOD HCV Ab-NEG
___ 06:30AM BLOOD HBV VL-3.0*
___ 06:40AM URINE Hours-RANDOM Creat-500 Na-25
___ 06:40AM URINE bnzodzp-NEG barbitr-POS* opiates-NEG 
cocaine-NEG amphetm-NEG

PERTINENT IMAGING:
==================

RUQ US ___:
FINDINGS: 
 
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the
liver is smooth. There is no focal liver mass. The main portal 
vein is patent
with hepatopetal flow. There is no ascites.
 
BILE DUCTS: There is no intrahepatic biliary dilation. The CBD 
measures 5 mm.
 
GALLBLADDER: No gallstone. There is mild gallbladder wall 
thickening likely
due to contracted state as patient ate prior to the exam.
 
PANCREAS: The imaged portion of the pancreas appears within 
normal limits,
without masses or pancreatic ductal dilation, with portions of 
the pancreatic
tail obscured by overlying bowel gas.
 
SPLEEN: Normal echogenicity, measuring 0.5 cm.
 
KIDNEYS: The right kidney is visualized evidence by severe 
atrophy recent CT
from ___. The left kidney measures 12.8 cm. No 
hydronephrosis in
the left kidney. There is a 0.6 cm cyst in the lower pole of the 
left kidney.
 
RETROPERITONEUM: The visualized portions of aorta and IVC are 
within normal
limits.
 
IMPRESSION: 
 
Normal graphic appearance of the hepatic parenchyma without 
focal lesions.

AFP 3.2 (WNL)
HBV Viral Load 3.0 
Urine barbiturates positive 

 
Brief Hospital Course:
___ W/ PMH of alcohol use disorder, cocaine use disorder, 
solitary kidney and other issues currently on a section 35 for 
substance abuse treatment admitted from his facility with 
hypertension to the 200s systolic and vomiting.  Blood pressure 
normalized quickly with resumption of his home clonidine.  
Patient had mild ___ (likely pre-renal vs CIN), with a 
creatinine of 1.6, that improved to 1.2 with hydration.  Patient 
also diagnosed with hepatitis B virus infection without 
hepatitis, HB the viral load was 1000.  In discussion with ID, 
based on absence of cirrhosis and transaminitis, outpatient 
monitoring will be sufficient, and treatment is not currently 
indicated.  RUQUS was performed to screen for HCC, which was 
negative.  He was given a Tdap booster and was discharged back 
to his facility. He was seen by nutrition who recommended ensure 
supplements TID as well as initiation of a multivitamin, folic 
acid and thiamine. He was continued on his home divalproex. In 
the hospital he received trazodone PRN but was not felt to 
require this upon discharge. He was also noted to be bradycardic 
in the ___ but asymptomatic, likely a resting bradycardia. 

Transitional issues:
-Will need to be seen by Infectious Disease within 4 weeks for 
follow up
–Patient needs outpatient liver function test monitoring and 
ultrasound screening for HCC every ___ months.  He should also 
have his HBV viral load checked periodically.
–Patient had a positive urine toxicology for barbiturates during 
this admission.  He denied ingestion of barbiturates, it is 
unclear whether any of his medications can cause a false 
positive test.  Further monitoring for ongoing drug abuse with 
barbiturates may be clinically indicated.
–Patient should avoid NSAIDs and ACE inhibitors given his 
solitary kidney. Motrin was discontinued from his meds list for 
this reason. 
–Patient started on Ensure 3 times daily for nutritional 
supplementation given recent weight loss.  This was attributed 
to a period of recent heavy drug use, but if it persists, workup 
for other causes of unintentional weight loss is indicated. Add 
MV, thiamine, folate. 
-Check blood pressure and set of labs including BMP (to check 
Creatinine) and CBC (Hemoglobin noted in the range of ___ upon 
discharge), to ensure stable. 

Time spent: 45 minutes 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. CloNIDine 0.2 mg PO DAILY 
3. Divalproex (EXTended Release) 500 mg PO BID 
4. Ibuprofen 400 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY  
2.  Multivitamins W/minerals 1 TAB PO DAILY  
3.  Thiamine 100 mg PO DAILY  
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  CloNIDine 0.2 mg PO DAILY  
6.  Divalproex (EXTended Release) 500 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Hypertension, hepatitis B virus infection, acute kidney 
injury
Secondary: Alcohol use disorder, cocaine use disorder, solitary 
kidney, constipation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure caring for you at ___ 
___.  You were admitted to the hospital with 
hypertension.  We treated you with medication and your blood 
pressure improved.  We do not know what caused your blood 
pressure to rise so dramatically; this may have been due to 
vomiting. You should continue taking your blood pressure 
medication and abstaining from cocaine, alcohol, and other 
drugs.    

While you were here, we found that you have an infection with a 
virus called hepatitis B. You do not need treatment for this 
virus right now, but you need to have your liver function tests 
monitored by your primary care doctor every 6 months.  You also 
need to have an ultrasound of your liver every year as a 
screening test for liver cancer.

Thank you for allowing us to participate in your care.
 
Followup Instructions:
___